US05595952
0.780 g of aluminum hydroxide, 1.47 g of methylphosphonic acid, and 6.64 g of water were mixed and stirred for 1 hour. Then the mixture was placed in an internal cylinder of Teflon in a stainless steel pressure-resistant vessel, which was placed in turn in a constant-temperature bath, and the mixture in the vessel was heated under autogenous pressure at 160° C. for 48 hours. After cooling to room temperature, suspended needle crystals were scooped out, washed with water, and dried in air, to obtain 0.97 g of aluminum methylphosphonate. The product gave essentially the same powder X-ray diffraction pattern as that in Example 4, and the product also contained a phase that gave essentially the same powder X-ray diffraction pattern as that in Example 1.

reactant | aluminum hydroxide | 0.780 g | [OH-].[Al+3].[OH-].[OH-]
reactant | methylphosphonic acid | 1.47 g | CP(O)(O)=O | CH5O3P
solvent | water | 6.64 g | O | H2O
product | aluminum methylphosphonate | 0.97 g | CP([O-])([O-])=O.[Al+3].CP([O-])([O-])=O.CP([O-])([O-])=O.[Al+3] | InChI=1S/3CH5O3P.2Al/c3*1-5(2,3)4;;/h3*1H3,(H2,2,3,4);;/q;;;2*+3/p-6
